US05017546
3-hydroxy-4-(2'-hydroxy-3'-carboxyphenyl) 2-naphthoic acid.
Of the above compounds, 3,5-di(α,α-dimethylbenzyl)salicylic acid, 3-[4'(α,α-dimethylbenzyl)-phenyl-5-(α,α-dimethylbenzyl)salicylic acid, 3-cyclohexyl-5-(α,α-dimethylbenzyl)salicylic acid, 3-phenyl-5-[4'-(α,α-dimethylbenzyl)-α,α-dimethylbenzyl]salicylic acid, and 3-phenyl-5-(α,α-dimethylbenzyl)salicylic acid are said to be most preferred.

reactant | 3,5-di(α,α-dimethylbenzyl)salicylic acid | CC(C1=CC=CC=C1)(C)C1=C(C(C(=O)O)=CC(=C1)C(C1=CC=CC=C1)(C)C)O | C25H26O3
reactant | 3-cyclohexyl-5-(α,α-dimethylbenzyl)salicylic acid | C1(CCCCC1)C1=C(C(C(=O)O)=CC(=C1)C(C1=CC=CC=C1)(C)C)O | C22H26O3
reactant | 3-phenyl-5-[4'-(α,α-dimethylbenzyl)-α,α-dimethylbenzyl]salicylic acid | C1(=CC=CC=C1)C1=C(C(C(=O)O)=CC(=C1)C(C1=CC=C(C=C1)C(C1=CC=CC=C1)(C)C)(C)C)O | C31H30O3
reactant | 3-phenyl-5-(α,α-dimethylbenzyl)salicylic acid | C1(=CC=CC=C1)C1=C(C(C(=O)O)=CC(=C1)C(C1=CC=CC=C1)(C)C)O | C22H20O3
product | 3-hydroxy-4-(2'-hydroxy-3'-carboxyphenyl) 2-naphthoic acid | OC=1C(=CC2=CC=CC=C2C1C1=C(C(=CC=C1)C(=O)O)O)C(=O)O | C18H12O6
